US06395734B1
Alternatively, a mixture of 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (10 g, 51 mmol), 2-oxindole (6.5 g, 49 mmol) and sodium hydroxide (40 g, 58 mmol) dissolved in 50 ml of water was stirred at 50° C. for 4 hours. The reaction mixture was cooled to room temperature, filtered and the filtrate acidified with to pH 3 with 12 N hydrochloric acid. The solid which precipitated was collected by vacuum filtration, washed with 10 ml of water and dried under vacuum overnight. The crude solid slurry washed with hot ethanol twice. The solid was then collected by vacuum filtration, washed with 10 ml of ethanol and dried under vacuum to give 13.8 g (91%) of 3-[2,4-dimethyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid.

reactant | 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 51 mmol, 10 g | C(=O)C1=C(C(=C(N1)C)CCC(=O)O)C | C10H13NO3
reactant | 2-oxindole | 49 mmol, 6.5 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydroxide | 58 mmol, 40 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-[2,4-dimethyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid | 13.8 g, 91% | CC=1NC(=C(C1CCC(=O)O)C)C=C1C(NC2=CC=CC=C12)=O | C18H18N2O3
